US04358593
6-benzoyloxy-2-(4-benzoyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride
The process of this example was run as was the process of Example 9, starting with the acid chloride formed from 18.9 g. of 4-(2-piperidinoethoxy)benzoic acid, hydrochloride, and 20 g. of 6-benzoyloxy-2-(4-benzoyloxyphenyl)benzo[b]thiophene. The reaction mixture was stirred for 1.5 hours, and was then worked up as described in Example 9 to obtain the desired product as an oil. A small portion of the crude product was crystallized from denatured ethanol to provide an analytical sample, m.p. 230°-233°, the identity of which was confirmed by nmr analysis. δ1.30-2.50 (6H, m, NH(CH2CH2)2CH2); 2.50-3.75 (6H, m, NH(CH2CH2)2CH2 and OCH2CH2N); 4.56 (2H, m, OCH2CH2N); 6.77 (2H, d, J=9 Hz, aromatic o to OCH2); 7.10 (2H, d, J=9 Hz, aromatic o to OCO); 7.10-7.90 (17H, m, aromatic); 8.00-8.27 (6H, m, aromatic o to CO); 12.30-12.80 (1H, broad s, NH).

reactant | 4-(2-piperidinoethoxy)benzoic acid, hydrochloride | Cl.N1(CCCCC1)CCOC1=CC=C(C(=O)O)C=C1
reactant | 6-benzoyloxy-2-(4-benzoyloxyphenyl)benzo[b]thiophene | C(C1=CC=CC=C1)(=O)OC=1C=CC2=C(SC(=C2)C2=CC=C(C=C2)OC(C2=CC=CC=C2)=O)C1 | C28H18O4S
product | 6-benzoyloxy-2-(4-benzoyloxyphenyl)-3-[4-(2-piperidinoethoxy)benzoyl]benzo[b]thiophene, hydrochloride | Cl.C(C1=CC=CC=C1)(=O)OC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCCN2CCCCC2)=O)C2=CC=C(C=C2)OC(C2=CC=CC=C2)=O)C1 | InChI=1S/C42H35NO6S.ClH/c44-39(29-14-18-33(19-15-29)47-27-26-43-24-8-3-9-25-43)38-36-23-22-35(49-42(46)32-12-6-2-7-13-32)28-37(36)50-40(38)30-16-20-34(21-17-30)48-41(45)31-10-4-1-5-11-31;/h1-2,4-7,10-23,28H,3,8-9,24-27H2;1H
